US04731370
In 50 ml of ethyl acetate was dissolved 9.2 g of 3-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyloxy]-2,2-dimethylpropanol, and one drop of triethylamine was added to the resulting solution. To the solution was added dropwise a mixture of 3.1 g of diketene and 9.2 ml of ethyl acetate under reflux over one hour, and the resulting mixture was then subjected to reaction at the same temperature for 30 minutes. Subsequently, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Merck Silica Gel, 70-230 mesh, eluant: toluene:ethyl acetate (4:1 by volume)] to obtain 7.05 g (yield 60.8%) of oily 3-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyloxy]-2,2-dimethylpropyl acetoacetate.

reactant | 3-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyloxy]-2,2-dimethylpropanol | 9.2 g | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C(/COCC(CO)(C)C)\C | C21H27NO2
reactant | diketene | 3.1 g | C=C1CC(=O)O1 | C4H4O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 9.2 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyloxy]-2,2-dimethylpropyl acetoacetate | 7.05 g, yield 60.8% | C(CC(=O)C)(=O)OCC(COC\C(=C\C1=CC=C(C=C1)CC=1C=NC=CC1)\C)(C)C | C25H31NO4
